US04509537
The reaction of 2-propoxyphenol chloroformate with 1,3-propanediol yields 1-(2-propoxyphenoxycarbonyloxy)-3-propanol.

reactant | 2-propoxyphenol chloroformate | ClC(=O)OC1=C(C=CC=C1)OCCC | C10H11ClO3
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | 1-(2-propoxyphenoxycarbonyloxy)-3-propanol | C(CC)OC1=C(OC(=O)OCCCO)C=CC=C1 | C13H18O5
